US05099021
N-phenyl-N',N'-dimethylurea
3.35 g (0.038 mol) of N,N-dimethylurea and 2.33 g (0.025 mol) of aniline were added with stirring into 28 ml of 1,2,4-trichlorobenzene. The reaction mixture was slowly heated to 205° C., dimethylamine being passed in from 60° C. After 5.5 hours, 11.8 g (0.27 mol) of dimethylamine had been passed in and the reaction was complete. The reaction mixture was cooled to room temperature, whereupon a precipitate deposited. The precipitate was filtered off, washed with 1,2,4-trichlorobenzene, dried and then boiled in water. The aqueous mixture was cooled, and the precipitate was filtered off with suction and dried. 3.3 g of N-phenyl-N',N'-dimethylurea, i.e. 81% of theory, having a melting point of 130° to 133° C. were obtained in this way.

reactant | N,N-dimethylurea | 0.038 mol, 3.35 g | CN(C(=O)N)C | C3H8N2O
reactant | aniline | 0.025 mol, 2.33 g | NC1=CC=CC=C1 | C6H7N
reactant | 1,2,4-trichlorobenzene | 28 ml | ClC1=C(C=C(C=C1)Cl)Cl | C6H3Cl3
reactant | dimethylamine | CNC | C2H7N
reactant | dimethylamine | 0.27 mol, 11.8 g | CNC | C2H7N
product | N-phenyl-N',N'-dimethylurea | C1(=CC=CC=C1)NC(=O)N(C)C | C9H12N2O
